US04960766
To a solution of sodium iodide (1.46 g) in acetone (5 ml) was added benzhydryl 7β-tert-butoxycarbonylamino-3-chloromethyl-3-cephem-4-carboxylate (5 g) at ambient temperature. The mixture was stirred at the same temperature for 10 minutes and N-methylpyrazole (5 ml) was added thereto. The resultant mixture was stirred at the same temperature for 24 hours and poured into a mixture of tetrahydrofuran (25 ml), ethyl acetate (25 ml) and water (25 ml). The separated organic layer was washed with brine, and dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 7β-tert-butoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide (6.45 g), the physical data of which were identical to those of the compound prepared in Preparation 3.

reactant | sodium iodide | 1.46 g | [I-].[Na+]
reactant | benzhydryl 7β-tert-butoxycarbonylamino-3-chloromethyl-3-cephem-4-carboxylate | 5 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H27ClN2O5S
reactant | N-methylpyrazole | 5 ml | CN1N=CC=C1 | C4H6N2
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-tert-butoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide | 6.45 g | [I-].C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C30H32N4O5S.HI/c1-30(2,3)39-29(37)31-23-26(35)34-24(22(19-40-27(23)34)18-33-17-11-16-32(33)4)28(36)38-25(20-12-7-5-8-13-20)21-14-9-6-10-15-21;/h5-17,23,25,27H,18-19H2,1-4H3;1H/t23-,27-;/m1./s1
